US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)cyclopentane-1,2-diol
7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (390 mg, 0.52 mmol) was dissolved in a mixture of Trifluoroacetic Acid (7.2 ml) and Water (0.8 ml) which had been pre-cooled at 0° C. in an ice bath. The solution was stirred at 0° C. for 30 minutes, then warmed to RT After 2.5 at RT the residue was taken up in 15 ml MeOH and concentrated. This procedure was repeated twice and the residue placed on high vacuum The material was taken up in 15 ml MeOH (gave a slurry) and was treated with 500 mg K2CO3 and 8 drops of water. The mixture was allowed to stir for 1 hr, during which time the solution was found to be basic. The mixture was filtered through a finefrit, the solids were washed with 10 ml MeOH and the filtrate was concentrated to yield an off white solid. The material was left on high vacuum overnight. The crude material was purified by flash chromatography (SiO2, eluting with 8-10% 7N NH3 in CH3OH/CH2Cl2) to give a glass/stiff foam (0.22 g). 1H NMR (400 MHz, MeOD) δH ppm 8.06 (s, 1 H), 7.48 (br. s., 1 H), 7.39 (m, 1 H), 7.27 (m, 1 H), 7.20 (d, J=3.52 Hz, 1 H), 6.60 (m, 1 H), 4.32 (t, J=6.43 Hz, 1 H), 3.93 (t, J=5.29 Hz, 1 H), 3.54 (m, 0.2 H), 3.11 (t, J=9.33 Hz, 1 H), 3.02 (m, 1 H), 2.82 (m, 2 H), 2.66 (dd, J=13.68, 8.09 Hz, 1 H), 2.46 (m, 1 H), 2.36 (m, 1 H), 123 (m, 3 H), 2.05 (m, 1 H), 1.91 (m, 3 H), 1.59 (m, 3 H), 1.36 (s, 9 H), 1.02 (m, 6 H).

reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.52 mmol, 390 mg | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C44H59N7O4
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Trifluoroacetic Acid | 7.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Water | 0.8 ml | O | H2O
solvent | MeOH | 15 ml | CO | CH4O
catalyst | water | 8 drops | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)cyclopentane-1,2-diol | 0.22 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C(C)C)C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C32H45N7O2
